US07429607B2
b. Synthesis of 2-acetoxy-1-(naphth-1-yl)-1-propanone
2-bromo-1-(napth-1-yl)-1-propanone (2 g) and sodium acetate (0.63 g) were boiled under reflux in anhydrous ethanol (10 ml) for 16 hours. The mixture was cooled and evaporated in vacuo. The residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with water, brine, dried with sodium sulphate, filtered and evaporated in vacuo. The title compound was obtained as an oil (0.75 g) following silica gel column chromatography of the residue in 50% dichloromethane in petroleum ether.

reactant | 2-bromo-1-(napth-1-yl)-1-propanone | 2 g | BrC(C(=O)C1=CC=CC2=CC=CC=C12)C | C13H11BrO
reactant | sodium acetate | 0.63 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-acetoxy-1-(naphth-1-yl)-1-propanone | C(C)(=O)OC(C(=O)C1=CC=CC2=CC=CC=C12)C | C15H14O3
